### PR TITLE
feat(GreensOpenProblems): 35

### PR DESCRIPTION
**Pull request by conglu1997**
Closes https://github.com/google-deepmind/formal-conjectures/issues/1591 with the help of codex :)

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
...
+open scoped Convolution ENNReal
+
+/-- A nonnegative integrable function on `[0,1]` with total integral `1`. -/
+def IsUnitIntervalDensity (f : ℝ → ℝ) : Prop :=
+  Integrable f ∧
+    (∀ x, 0 ≤ f x) ∧
+    Function.support f ⊆ Set.Icc (0 : ℝ) 1 ∧
+    (∫ x, f x) = 1
+
+/-- The infimum of `‖f ∗ f‖_p` over unit-interval densities. -/
```
Comment (felixpernegger) [inline FormalConjectures/GreensOpenProblems/35.lean]: Use LaTeX for the docstrings

Comment (conglu1997) [reply FormalConjectures/GreensOpenProblems/35.lean]: Done ty!

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 2]
```diff
@@ -0,0 +1,85 @@
...
+theorem pInf_lower : ENNReal.ofReal 0.64 ≤ c ∞ := by
+  sorry
+
+/-- Best-known upper bound for $c(\infty)$ due to Matolcsi and Vinuesa ([MV10]). -/
+@[category research solved, AMS 26 28 42]
+theorem pInf_upper : c ∞ ≤ ENNReal.ofReal 0.7505 := by
+  sorry
+
+/-- A comparison bound from Young's inequality. -/
+@[category research solved, AMS 26 28 42]
```
Comment (felixpernegger) [inline FormalConjectures/GreensOpenProblems/35.lean]:
```suggestion
@[category undergraduate, AMS 26 28 42]
```

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+    (∫ x, f x) = 1
+
+/-- The infimum of $\|f \ast f\|_p$ over unit-interval densities. -/
+noncomputable def c (p : ℝ≥0∞) : ℝ≥0∞ :=
+  sInf { r | ∃ f, IsUnitIntervalDensity f ∧ r = eLpNorm (f ⋆ f) p }
+
+/-- Estimate $c(p)$ for $1 < p \le \infty$. -/
+@[category research open, AMS 26 28 42]
+theorem green_35 (p : ℝ≥0∞) (hp : 1 < p) :
+    c p = answer(sorry) := by
```
Comment (felixpernegger) [inline FormalConjectures/GreensOpenProblems/35.lean]:
```suggestion
theorem green_35 {p : ℝ≥0∞} (hp : 1 < p) :
    c p = answer(sorry) := by
```
I am not totally convinced we should be asking for equality, but not sure about this.

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+
+open MeasureTheory
+open scoped Convolution ENNReal
+
+/-- A nonnegative integrable function on $[0,1]$ with total integral $1$. -/
+def IsUnitIntervalDensity (f : ℝ → ℝ) : Prop :=
+  Integrable f ∧
+    (∀ x, 0 ≤ f x) ∧
+    Function.support f ⊆ Set.Icc (0 : ℝ) 1 ∧
+    (∫ x, f x) = 1
```
Comment (felixpernegger) [inline FormalConjectures/GreensOpenProblems/35.lean]:
```suggestion
/-- A nonnegative integrable function on $[0,1]$ with total integral $1$. -/
def IsUnitIntervalDensity (f : ℝ → ℝ) : Prop :=
  Integrable f ∧ (∀ x, 0 ≤ f x) ∧ Function.support f ⊆ Set.Icc (0 : ℝ) 1 ∧ ∫ x, f x = 1
```

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 5]
```diff
@@ -0,0 +1,85 @@
...
+theorem green_35 (p : ℝ≥0∞) (hp : 1 < p) :
+    c p = answer(sorry) := by
+  sorry
+
+/-! Known bounds and comparisons. -/
+namespace variants
+
+/-- Lower bound for $c(2)$ from Green's first paper ([Gr01]). -/
+@[category research solved, AMS 26 28 42]
+theorem p2_lower : ENNReal.ofReal 0.7559 ≤ c 2 := by
```
Comment (felixpernegger) [inline FormalConjectures/GreensOpenProblems/35.lean]:
```suggestion
theorem p2_lower : .ofReal 0.7559 ≤ c 2 := by
```

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 6]
```diff
@@ -0,0 +1,85 @@
...
+  sorry
+
+/-- Best-known lower bound for $c(\infty)$ due to Cloninger and Steinerberger ([CS17]). -/
+@[category research solved, AMS 26 28 42]
+theorem pInf_lower : ENNReal.ofReal 0.64 ≤ c ∞ := by
```
Comment (felixpernegger) [inline FormalConjectures/GreensOpenProblems/35.lean]:
```suggestion
theorem pInf_lower : .ofReal 0.64 ≤ c ∞ := by
```

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 7]
```diff
@@ -0,0 +1,85 @@
...
+  sorry
+
+/-- Best-known upper bound for $c(\infty)$ due to Matolcsi and Vinuesa ([MV10]). -/
+@[category research solved, AMS 26 28 42]
+theorem pInf_upper : c ∞ ≤ ENNReal.ofReal 0.7505 := by
```
Comment (felixpernegger) [inline FormalConjectures/GreensOpenProblems/35.lean]:
```suggestion
theorem pInf_upper : c ∞ ≤ .ofReal 0.7505 := by
```

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 8]
```diff
@@ -0,0 +1,85 @@
...
+supported on `[0,1]`, and has total integral `1`.
+
+*References:*
+- [Ben Green's Open Problem 35](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.35)
+- [Gr01] B. J. Green, *The number of squares and $B_h[g]$-sets*, Acta Arith. 100 (2001), no. 4,
+  365-390.
+- [CS17] A. Cloninger and S. Steinerberger, *On suprema of autoconvolutions with an application to
+  Sidon sets*, Proc. Amer. Math. Soc. 145 (2017), no. 8, 3191-3200.
+- [MV10] M. Matolcsi and C. Vinuesa, *Improved bounds on the supremum of autoconvolutions*,
+  J. Math. Anal. Appl. 372 (2010), 439-447.
```
Comment (felixpernegger) [inline FormalConjectures/GreensOpenProblems/35.lean]: If you have links for the papers (maybe arxiv), it would be nice to have!

File: FormalConjectures/GreensOpenProblems/35.lean (hunk 3 above)
Comment (conglu1997) [reply FormalConjectures/GreensOpenProblems/35.lean]: That makes sense, thanks! Split into upper + lower bounds!

File: FormalConjectures/GreensOpenProblems/35.lean (hunk 8 above)
Comment (conglu1997) [reply FormalConjectures/GreensOpenProblems/35.lean]: Done, thanks!

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 9]
```diff
@@ -0,0 +1,90 @@
...
+-/
+
+namespace Green35
+
+open MeasureTheory
+open scoped Convolution ENNReal
+
+/-- A nonnegative integrable function on $[0,1]$ with total integral $1$. -/
+def IsUnitIntervalDensity (f : ℝ → ℝ) : Prop :=
+  Integrable f ∧ (∀ x, 0 ≤ f x) ∧ Function.support f ⊆ Set.Icc (0 : ℝ) 1 ∧ (∫ x, f x) = 1
```
Comment (felixpernegger) [inline FormalConjectures/GreensOpenProblems/35.lean]:
```suggestion
  Integrable f ∧ (∀ x, 0 ≤ f x) ∧ Function.support f ⊆ .Icc (0 : ℝ) 1 ∧ ∫ x, f x = 1
```
nitpick

**Comment by felixpernegger** [comment]
Looks good to me now!

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 10]
```diff
@@ -0,0 +1,90 @@
...
+theorem green_35.upper {p : ℝ≥0∞} (hp : 1 < p) :
+    c p ≤ answer(sorry) := by
+  sorry
+
+/-! Known bounds and comparisons. -/
+namespace variants
+
+/-- Lower bound for $c(2)$ from Green's first paper ([Gr01]). -/
+@[category research solved, AMS 26 28 42]
+theorem p2_lower : .ofReal 0.7559 ≤ c 2 := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/35.lean]: Do you really need to use `ofReal` here?
```suggestion
theorem p2_lower : 0.7559 ≤ c 2 := by
```

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 11]
```diff
@@ -0,0 +1,90 @@
...
+@[category research open, AMS 26 28 42]
+theorem green_35.lower {p : ℝ≥0∞} (hp : 1 < p) :
+    answer(sorry) ≤ c p := by
+  sorry
+
+/-- Upper bound for $c(p)$ for $1 < p \le \infty$. -/
+@[category research open, AMS 26 28 42]
+theorem green_35.upper {p : ℝ≥0∞} (hp : 1 < p) :
+    c p ≤ answer(sorry) := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/35.lean:66]: These are too vague I'm afraid. What about asking for better bounds than the known ones?

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 12]
```diff
@@ -0,0 +1,90 @@
...
+namespace variants
+
+/-- Lower bound for $c(2)$ from Green's first paper ([Gr01]). -/
+@[category research solved, AMS 26 28 42]
+theorem p2_lower : .ofReal 0.7559 ≤ c 2 := by
+  sorry
+
+/-- Best-known lower bound for $c(\infty)$ due to Cloninger and Steinerberger ([CS17]). -/
+@[category research solved, AMS 26 28 42]
+theorem pInf_lower : .ofReal 0.64 ≤ c ∞ := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/35.lean]: It's `c`, not `pInf`. Same below
```suggestion
theorem c_lower : .ofReal 0.64 ≤ c ∞ := by
```

File: FormalConjectures/GreensOpenProblems/35.lean (hunk 10 above)
Comment (conglu1997) [reply FormalConjectures/GreensOpenProblems/35.lean]: Fixed, thanks!

File: FormalConjectures/GreensOpenProblems/35.lean (hunk 12 above)
Comment (conglu1997) [reply FormalConjectures/GreensOpenProblems/35.lean]: Fixed, thanks!

File: FormalConjectures/GreensOpenProblems/35.lean (hunk 11 above)
Comment (conglu1997) [reply FormalConjectures/GreensOpenProblems/35.lean:66]: Done! :)

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 13]
```diff
@@ -0,0 +1,93 @@
...
+/-- The infimum of $\|f \ast f\|_p$ over unit-interval densities. -/
+noncomputable def c (p : ℝ≥0∞) : ℝ≥0∞ :=
+  sInf { r | ∃ f, IsUnitIntervalDensity f ∧ r = eLpNorm (f ⋆ f) p }
+
+/-- Lower bound for $c(p)$ for $1 < p \le \infty$, improving the known values at $p = 2, \infty$. -/
+@[category research open, AMS 26 28 42]
+theorem green_35.lower {p : ℝ≥0∞} (hp : 1 < p) :
+    answer(sorry) ≤ c p ∧
+      (p = 2 → 0.7559 < answer(sorry)) ∧
+      (p = ∞ → 0.64 < answer(sorry)) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/35.lean]: This doesn't make sense as is because the lower bound must be allowed to depend on `p`. Something like 
```suggestion
    let lb : ℝ≥0∞ \r ℝ≥0∞ := answer(sorry)
    (\forall p, 1 < p \r lb p ≤ c p) ∧ 0.7559 < c 2 ∧ 0.64 < c ∞ := by
```

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 14]
```diff
@@ -0,0 +1,92 @@
...
+theorem green_35.lower :
+    let lb : ℝ≥0∞ → ℝ≥0∞ := answer(sorry)
+    (∀ p, 1 < p → lb p ≤ c p) ∧ 0.7559 < c 2 ∧ 0.64 < c ∞ := by
+  sorry
+
+/-- Upper bound for $c(p)$ for $1 < p \le \infty$, improving the best-known value at $p = \infty$. -/
+@[category research open, AMS 26 28 42]
+theorem green_35.upper {p : ℝ≥0∞} (hp : 1 < p) :
+    c p ≤ answer(sorry) ∧
+      (p = ∞ → answer(sorry) < 0.7505) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/35.lean]: Same here

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 15]
```diff
@@ -0,0 +1,92 @@
...
+    let ub : ℝ≥0∞ → ℝ≥0∞ := answer(sorry)
+    (∀ p, 1 < p → c p ≤ ub p) ∧ ub ∞ < 0.7505 := by
+  sorry
+
+/-! Known bounds and comparisons. -/
+namespace variants
+
+/-- Lower bound for $c(2)$ from Green's first paper ([Gr01]). -/
+@[category research solved, AMS 26 28 42]
+theorem p2_lower : 0.7559 ≤ c 2 := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/35.lean]:
```suggestion
theorem c_2_lower : 0.7559 ≤ c 2 := by
```

File: FormalConjectures/GreensOpenProblems/35.lean [hunk 16]
```diff
@@ -0,0 +1,92 @@
...
+
+/-- The infimum of $\|f \ast f\|_p$ over unit-interval densities. -/
+noncomputable def c (p : ℝ≥0∞) : ℝ≥0∞ :=
+  sInf { r | ∃ f, IsUnitIntervalDensity f ∧ r = eLpNorm (f ⋆ f) p }
+
+/-- Lower bound for $c(p)$ for $1 < p \le \infty$, improving the known values at $p = 2, \infty$. -/
+@[category research open, AMS 26 28 42]
+theorem green_35.lower :
+    let lb : ℝ≥0∞ → ℝ≥0∞ := answer(sorry)
+    (∀ p, 1 < p → lb p ≤ c p) ∧ 0.7559 < c 2 ∧ 0.64 < c ∞ := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/35.lean]:
```suggestion
    (∀ p, 1 < p → lb p ≤ c p) ∧ (0.7559 < c 2 \or 0.64 < c ∞) := by
```
Just realizing that improving one of them would already be a nice achievement

File: FormalConjectures/GreensOpenProblems/35.lean (hunk 15 above)
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/35.lean]: Does the lower bound have an exact expression? Otherwise, this would be an approximation, and an AI could claim to have found a better bound by formalizing Ben Green's argument and approximating the constant better

Comment (conglu1997) [reply FormalConjectures/GreensOpenProblems/35.lean]: Great call! I believe it's sqrt(4/7) from theorem 13 of the paper.
